datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCOC(=O)CC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCOC(=O)CC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COC([OH2+])(C(F)(F)F)[O-:10].COc1cc(S(C)=O)ccc1-c1nc2cnncc2[n:21]1[H:20]>>COC([OH2+])(C(F)(F)F)[O:10][H:20].COc1cc(S(C)=O)ccc1-c1nc2cnncc2[n-:21]1 10=20;20,21=21",
"Cc1cc(/N=N/c2ccc(S(=O)(=O)[NH:21][H:20])cc2)cc(C(=O)[O-])c1O.c1ccc(/N=N/c2ccc([O-:10])cc2)cc1>>Cc1cc(/N=N/c2ccc(S(=O)(=O)[NH-:21])cc2)cc(C(=O)[O-])c1O.c1ccc(/N=N/c2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"O=C(/C(=N\[O-:10])c1ccccc1)c1ccccc1.SCC[NH+:21](CCc1ccccc1)[H:20]>>O=C(/C(=N\[O:10][H:20])c1ccccc1)c1ccccc1.SCC[NH:21]CCc1ccccc1 10=20;20,21=21",
"[O-]c1cc(C[NH2:10])ccc1F.c1ccc(-c2ccc3n(cc[n+:21]3[H:20])n2)cc1>>[O-]c1cc(C[NH2+:10][H:20])ccc1F.c1ccc(-c2ccc3n(cc[n:21]3)n2)cc1 10=20;20,21=21",
"C[N+:21](C)(c1ccc(/N=N/c2cccc[nH+]2)cc1)[H:20].Nc1c2ccccc2cn[n:10]1>>C[N:21](C)c1ccc(/N=N/c2cccc[nH+]2)cc1.Nc1c2ccccc2cn[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCOC(=O)CCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)CCCC[NH2+:10][H:20] 10=20;20,21=21",
"C/C(=N/[O-:10])c1ccccc1.Oc1onc2c1CC[NH+:21]([H:20])CC2>>C/C(=N/[O:10][H:20])c1ccccc1.Oc1onc2c1CC[NH:21]CC2 10=20;20,21=21",
"CC(C)(C)[NH:10]C1CCCCC1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)(C)[NH+:10](C1CCCCC1)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(C)(C)c1cc[n+:21]([H:20])cc1.O=[N+]([O-])c1cccc2c([NH2:10])cccc12>>CC(C)(C)c1cc[n:21]cc1.O=[N+]([O-])c1cccc2c([NH2+:10][H:20])cccc12 10=20;20,21=21",
"CCOC(=O)c1ccccc1-n1nc([O-:10])cc1C.O=C([O-])[C@@H]1CCCN1C(=O)[C@@H]1CCC[NH+:21]1[H:20]>>CCOC(=O)c1ccccc1-n1nc([O:10][H:20])cc1C.O=C([O-])[C@@H]1CCCN1C(=O)[C@@H]1CCC[NH:21]1 10=20;20,21=21",
"Nc1cc[nH][n+:21]1[H:20].Nc1ccc(S(=O)(=O)[N-:10]c2cccnc2)cc1>>Nc1cc[nH][n:21]1.Nc1ccc(S(=O)(=O)[N:10](c2cccnc2)[H:20])cc1 10=20;20,21=21",
"NC(=O)C(Cc1c[nH]cn1)[NH2:10].O=C(CCCC1CCCCC1)[O:21][H:20]>>NC(=O)C(Cc1c[nH]cn1)[NH2+:10][H:20].O=C(CCCC1CCCCC1)[O-:21] 10=20;20,21=21",
"COc1ccc([N+:21](C)(C)[H:20])cc1.O=C([C@H]1C[C@@H]1c1cccc([N+](=O)[O-])c1)[O-:10]>>COc1ccc([N:21](C)C)cc1.O=C([C@H]1C[C@@H]1c1cccc([N+](=O)[O-])c1)[O:10][H:20] 10=20;20,21=21",
"NC(=O)CCCCc1cc[n+:21]([H:20])cc1.[O-]c1c2nc[nH]c2nc[n:10]1>>NC(=O)CCCCc1cc[n:21]cc1.[O-]c1c2nc[nH]c2nc[n+:10]1[H:20] 10=20;20,21=21",
"CSc1ccc2ccccc2[n+:21]1[H:20].C[NH+](C)CCCCCCCCCNC(=O)/C=N/[O-:10]>>CSc1ccc2ccccc2[n:21]1.C[NH+](C)CCCCCCCCCNC(=O)/C=N/[O:10][H:20] 10=20;20,21=21",
"Nc1[nH][n:10]c(N)c1/N=N/c1ccc(O)cc1.Nc1n(-c2ccccc2)nn[n+:21]1[H:20]>>Nc1[nH][n+:10]([H:20])c(N)c1/N=N/c1ccc(O)cc1.Nc1n(-c2ccccc2)nn[n:21]1 10=20;20,21=21",
"Cc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10].O=C([O-])CC(c1[nH]cc[nH+]1)c1[nH]cc[n+:21]1[H:20]>>Cc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20].O=C([O-])CC(c1[nH]cc[nH+]1)c1[nH]cc[n:21]1 10=20;20,21=21",
"CNC(=O)c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CNC(=O)c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(CO)[NH2:10].CCCCS(=O)[O:21][H:20]>>CC(C)(CO)[NH2+:10][H:20].CCCCS(=O)[O-:21] 10=20;20,21=21",
"Nc1nc(N)[nH+]c([O:21][H:20])n1.OCC[N:10]1CC[NH+](CCCN2c3ccccc3Sc3ccc(Cl)cc32)CC1>>Nc1nc(N)[nH+]c([O-:21])n1.OCC[N+:10]1([H:20])CC[NH+](CCCN2c3ccccc3Sc3ccc(Cl)cc32)CC1 10=20;20,21=21",
"C1C[NH:10]C1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1C[NH+:10]([H:20])C1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(C)([Se-])C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)([Se-])C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC=C(C)C(=O)[O-:10].Fc1ccc([N:21](C(=S)c2cccc(Br)c2)[H:20])cc1>>CCCC=C(C)C(=O)[O:10][H:20].Fc1ccc([N-:21]C(=S)c2cccc(Br)c2)cc1 10=20;20,21=21",
"N#CC1CC2CC[N+:21]1([H:20])CC2.O=C1C=C[N-:10]C=C1>>N#CC1CC2CC[N:21]1CC2.O=C1C=C[N:10]([H:20])C=C1 10=20;20,21=21",
"CC1NCCC[NH:10]1.CCc1ccc(/N=N/c2ccc([N+:21](C)(C)[H:20])cc2)cc1CC>>CC1NCCC[NH+:10]1[H:20].CCc1ccc(/N=N/c2ccc([N:21](C)C)cc2)cc1CC 10=20;20,21=21",
"O=C(C1CSC[NH2+]1)[O-:10].[NH3+]c1ccc(-c2sc3ccccc3[n+:21]2[H:20])cc1>>O=C(C1CSC[NH2+]1)[O:10][H:20].[NH3+]c1ccc(-c2sc3ccccc3[n:21]2)cc1 10=20;20,21=21",
"C#CCCCC[NH2:10].CC[N+:21](CCO)(CC(C)O)[H:20]>>C#CCCCC[NH2+:10][H:20].CC[N:21](CCO)CC(C)O 10=20;20,21=21",
"CCC[NH:10]CCN.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCC[NH+:10](CCN)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"COc1ccc([N-:10]C(=S)c2ccccc2)cc1.C[NH+:21](CCC(N)=NO)[H:20]>>COc1ccc([N:10](C(=S)c2ccccc2)[H:20])cc1.C[NH:21]CCC(N)=NO 10=20;20,21=21",
"CC(=O)NC(CS)C(=O)[O:21][H:20].O=C(C1(O)CCCCC1)[O-:10]>>CC(=O)NC(CS)C(=O)[O-:21].O=C(C1(O)CCCCC1)[O:10][H:20] 10=20;20,21=21",
"C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O-:10].c1cnc2c(c1)ccc1c3c(c[n+:21]([H:20])c12)CCCC3>>C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O:10][H:20].c1cnc2c(c1)ccc1c3c(c[n:21]c12)CCCC3 10=20;20,21=21",
